US05308855
A mixture consisting of 1-{2-(6-chloro-3-pyridylmethylamino)ethyl}-2-nitroguanidine (1 g), a 37% aqueous solution of formalin (0.35 g), catalytic amount of hydrochloric acid, and water (20 ml) was stirred at 50° C. for one hour. After cooling, the solvent was removed from the reaction mixture under reduced pressure, leaving crystals that were then washed with chloroform to obtain the 1-(6-chloro-3-pyridylmethyl)-3-{1-(nitroimino)-aminomethyl}-imidazolidine. mp 170°-174° C.

reactant | 1-{2-(6-chloro-3-pyridylmethylamino)ethyl}-2-nitroguanidine | 1 g | ClC1=CC=C(C=N1)CNCCNC(=N[N+](=O)[O-])N | C9H13ClN6O2
reactant | formalin | 0.35 g | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 1-(6-chloro-3-pyridylmethyl)-3-{1-(nitroimino)-aminomethyl}-imidazolidine | ClC1=CC=C(C=N1)CN1CN(CC1)C(=N[N+](=O)[O-])N | C10H13ClN6O2
